US05008267
An oily substance obtained by dissolving 1.0 g of 6-(aziridin-1-yl)-1,3-dimethyl-5-nitro-2,4(1H,3H)-pyrimidinedione, 0.99 g of N-(2-hydroxethyl)-3-(4-nitrophenyl)propylamine and 50 mg of p-toluenesulfonic acid in 1.0 ml of dimethylformamide was allowed to react at 90° C. for 3 hours. The reaction mixture was cooled down to room temperature, added with 10 ml of water and then vigorously stirred. Crystals formed were collected by filtration, dissolved in chloroform and then subjected to silica gel chromatograph (chloroform/methanol=40:1 (v/v)) for purification. Thus, 0.44 g of 1,3-dimethyl-6-{2-[N-(2-hydroxyethyl)-3-(4-nitrophenyl)propylamino]ethylamino}-5-nitro-2,4(1H,3H)-pyrimidinedione (a free form of compound 180) was obtained.

reactant | 6-(aziridin-1-yl)-1,3-dimethyl-5-nitro-2,4(1H,3H)-pyrimidinedione | 1.0 g | N1(CC1)C1=C(C(N(C(N1C)=O)C)=O)[N+](=O)[O-] | C8H10N4O4
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | 10 ml | O | H2O
solvent | dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | 1,3-dimethyl-6-{2-[N-(2-hydroxyethyl)-3-(4-nitrophenyl)propylamino]ethylamino}-5-nitro-2,4(1H,3H)-pyrimidinedione | 0.44 g | CN1C(N(C(C(=C1NCCN(CCO)CCCC1=CC=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O)C)=O | C19H26N6O7
